US07622504B2
Preparation of 3-hydroxy-2-(4-chlorophenyl)propanenitrile
Sodium carbonate (204 mg, 1.9 mmol) dissolved in water (1.2 mL) was added dropwise over 10 min to a vigorously stirred mixture of the above ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate (400 mg 1.59 mmol), 37% HCHO (131 μL 1.75 mmol) and methylene chloride (2 mL). After an additional 2 min, the mixture was diluted with ˜one mL each of water and methylene chloride and phase separated. Acidification of the aqueous phase and filtration of the precipitated solid recovered 68 mg (17%) of the starting material. The organic phase was washed twice with water, dried and stripped to give a colorless oil. Flash chromatography on 10 g of silica gel eluting with 5-50% ethyl acetate in hexane recovered 43 mg of a higher Rf product assumed to be 4-chloroatroponitrile, and 210 mg (75%) of the desired alcohol, Rf 0.09 (silica gel, ethyl acetate:hexane=1:4).

reactant | Sodium carbonate | 1.9 mmol, 204 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate | 1.59 mmol, 400 mg | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C#N | C12H10ClNO3
reactant | HCHO | 1.75 mmol, 131 μL | C=O | CH2O
solvent | water | 1.2 mL | O | H2O
solvent | water | ˜one mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2-(4-chlorophenyl)propanenitrile | OCC(C#N)C1=CC=C(C=C1)Cl | C9H8ClNO
